US05292719
The starting material 1,1,3,4,4,6-hexamethyl-1,2,3,4-tetrahydronaphthalene (HMT) was prepared by substantially following the procedures of Frank, U.S. Pat. No. 4,877,913. Specifically, a 100 ml, four-necked, round bottom flask was charged with cyclohexane (7.17 g) and anhydrous aluminum chloride (1.004 g), and cooled to about 16° C. A 60 ml addition funnel was charged with para-cymene (39.87 g), diisobutylene-2 (8.34 g), and neohexene (6.25 g) and connected to the flask. The funnel mixture was added to the flask over a period of about one hour and the flask mixture stirred 30 minutes following addition, while maintaining the temperature at about 16° C. The reaction was then quenched with deionized water (15 ml), and the organic phase separated and washed with, in order, 5% HCl, 10% Na2CO3, and 50% brine. The aqueous layers were then dried over K2CO3, filtered, and evaporated to yield a crude product (41.13 g) containing 28.16 weight % HMT.

reactant | aluminum chloride | 1.004 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | para-cymene | 39.87 g | C1(=CC=C(C=C1)C)C(C)C | C10H14
reactant | neohexene | 6.25 g | C=CC(C)(C)C | C6H12
reactant | cyclohexane | 7.17 g | C1CCCCC1 | C6H12
product | 1,1,3,4,4,6-hexamethyl-1,2,3,4-tetrahydronaphthalene | CC1(CC(C(C2=CC(=CC=C12)C)(C)C)C)C | C16H24
